US06096753
Step D: (2R,3R)-2-methyl-3-phenyl-1,3-propanediamine:
Lithium aluminium hydride (2.3 g, 60.60 mmol) was added in portions to a stirring solution of (2S,3R)-3-amino-2-methyl-3-phenylpropionamide (2.6 g, 14.59 mmol) in tetrahydrofuran (54 ml) at ice-bath temperature. After 45 min, the mixture was heated at reflux for 16 h. With ice-bath cooling, the reaction was quenched by the portionwise addition of sodium sulfate decahydrate and some methanol until hydrogen evolution ceased. The solids were removed by filtration and washed with dichloromethane. The combined filtrates were evaporated to provide the title compound. MS (m/z): 165.2 (M+H)+ ; C10H16N2 requir. 164.3.

reactant | Lithium aluminium hydride | 60.60 mmol, 2.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,3R)-3-amino-2-methyl-3-phenylpropionamide | 14.59 mmol, 2.6 g | N[C@H]([C@@H](C(=O)N)C)C1=CC=CC=C1 | C10H14N2O
solvent | tetrahydrofuran | 54 ml | O1CCCC1 | C4H8O
product | (2R,3R)-2-methyl-3-phenyl-1,3-propanediamine | C[C@H](CN)[C@@H](N)C1=CC=CC=C1 | C10H16N2
